US07449466B2
Production Example 10 was repeated except that 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine was replaced with 1-(4-methoxy-2-methylphenyl)-4-phenethylpiperazine (512 mg), and the resulting crude product was purified on TLC (developer, chloroform: methanol=15:1) to provide 3-methyl-4-(4-phenethyl-piperazin-1-yl)phenol (417 mg).

reactant | 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine | COC1=C(C=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)C | C20H26N2O
reactant | 1-(4-methoxy-2-methylphenyl)-4-phenethylpiperazine | 512 mg | COC1=CC(=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)C | C20H26N2O
product | 3-methyl-4-(4-phenethyl-piperazin-1-yl)phenol | 417 mg | CC=1C=C(C=CC1N1CCN(CC1)CCC1=CC=CC=C1)O | C19H24N2O
